US07737279B2
A314.1: Methyl-(3-trimethylsilanylethynyl-benzyl)-carbamic acid tert-butyl ester
TMS-Acetylene (2.2 mL, 15.0 mmol) was added dropwise to commercially available tert-butyl 3-bromobenzyl(methyl)carbamate (3.0 g, 10 mmol), CuI (100 mg, 0.5 mmol) and palladium dichlorobistriphenylphosphine (210 mg, 0.3 mmol) in triethylamine (30 mL) at room temperature under a nitrogen atmosphere. The reaction mixture was heated to 70° C. for 12 hrs before cooling to room temperature and evaporating in vacuo. The residue was triturated with diethyl ether (30 mL), filtered and the filtrate evaporated in vacuo and purified by column chromatography (5% ethyl acetate in hexane) to yield A314.1 (3.2 g, 100%) as a brown oil. HPLC YMC S-5 4.6×33 mm (2 min grad): retention time 2.34 min, M+Na+=340.34

reactant | TMS-Acetylene | 15.0 mmol, 2.2 mL | [Si](C)(C)(C)C#C | C5H10Si
reactant | tert-butyl 3-bromobenzyl(methyl)carbamate | 10 mmol, 3.0 g | BrC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C13H18BrNO2
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.5 mmol, 100 mg | [Cu]I
product | Methyl-(3-trimethylsilanylethynyl-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)C#C[Si](C)(C)C)C)=O | C18H27NO2Si
